US09108938B2
2,3-dichloro-N-(2-(4,4-difluoropiperidin-1-yl)-2-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 5-(2-amino-1-(4,4-difluoropiperidin-1-yl)ethyl)-1-methylpyridin-2(1H)-one.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 5-(2-amino-1-(4,4-difluoropiperidin-1-yl)ethyl)-1-methylpyridin-2(1H)-one | NCC(N1CCC(CC1)(F)F)C=1C=CC(N(C1)C)=O | C13H19F2N3O
product | 2,3-dichloro-N-(2-(4,4-difluoropiperidin-1-yl)-2-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C2=CN(C(C=C2)=O)C)N2CCC(CC2)(F)F)C=CC=C1Cl | C20H21Cl2F2N3O2
